Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right upper quadrant abdominal pain 
 
Major Surgical or Invasive Procedure:
ERCP: ___

 
History of Present Illness:
Ms. ___ is a ___ year-old female with a past medical 
history
of hypertension, status post cholecystectomy who presents to the
emergency department for evaluation of right upper quadrant
abdominal pain. 

The patient had a cholecystectomy about ___ years ago at ___ for abdominal pain in her right upper quadrant area. 
She
states that over the past few months she has developed a similar
abdominal pain in her right upper quadrant. 

Patient describes that she has experienced intermittent right
upper quadrant abdominal pain for the past few months. Over the
past 2 days, she has experienced worsening pain in the right
upper quadrant associated with nausea but no emesis. Pain is
crampy, constant and worse with food intake. She says she at a
cheeseburger last night and her pain began afterwards and was
worse this time. She says that over the past month her pain 
would
last a few minutes to 30 minutes and then would remit. However
after eating her cheeseburger last night her pain was more 
severe
and lasted all night in the early morning prompting her to come
to PCP who then told her to go to the ED for further evaluation.
This was not associated with any fevers or chills. Not 
associated
with any chest pain or pressure. No dyspnea. No dysuria
hematuria. Here for further eval. 

Of note, patient was seen by her primary care who was concerns
for possible retained stone and sent her here for further eval.
 
Past Medical History:
- HTN
- prior Cholecystectomy ___ years ago  
 
Social History:
___
Family History:
Father with history of MI at age ___. No history of gastric 
cancer
or colon cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: Temp 97.8 BP 103/58  HR 54 RR ___ Ra   
GENERAL: middle aged appearing overweight female lying in bed
comfortable   
HEENT: Sclera anicteric and without injection, moist mucous
membranes   
NECK:  No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.   
EXTREMITIES: No edema 
SKIN: Warm. No rash.  
NEUROLOGIC:  AOx3. 

DISCHARGE PHYSICAL EXAM
=======================
GENERAL: middle aged appearing lying in bed
HEENT: Sclera anicteric and without injection, moist mucous
membranes   
CARDIAC: Regular rhythm, normal rate. 
LUNGS: Clear to auscultation bilaterally.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.   
EXTREMITIES: No edema 
SKIN: Warm. No rash.  
NEUROLOGIC:  AOx3.  
 
Pertinent Results:
ADMISSION LAB RESULTS
=====================
___ 02:30PM BLOOD WBC-8.9 RBC-4.06 Hgb-12.5 Hct-37.2 MCV-92 
MCH-30.8 MCHC-33.6 RDW-12.7 RDWSD-42.8 Plt ___
___ 02:30PM BLOOD Glucose-106* UreaN-14 Creat-0.6 Na-137 
K-6.4* Cl-105 HCO3-19* AnGap-13
___ 02:30PM BLOOD ALT-249* AST-313* AlkPhos-232* 
TotBili-1.6*

DISCHARGE LAB RESULTS
======================
___ 06:50AM BLOOD WBC-4.7 RBC-3.54* Hgb-10.7* Hct-32.4* 
MCV-92 MCH-30.2 MCHC-33.0 RDW-12.7 RDWSD-42.5 Plt ___
___ 06:50AM BLOOD Glucose-89 UreaN-11 Creat-0.6 Na-139 
K-4.0 Cl-103 HCO3-24 AnGap-12
___ 06:50AM BLOOD ALT-125* AST-52* AlkPhos-201* TotBili-0.4

IMAGING
=======
RUQ US: ___
1. Moderate intrahepatic biliary dilatation with a dilated 
common
hepatic duct measuring 1.5 cm status post cholecystectomy. No
obstructing lesions are visualized, however the distal CBD is 
not
well evaluated on this examination. MRCP is recommended for
further evaluation.
2. Echogenic liver consistent with steatosis. Other forms of
liver disease and more advanced liver disease including
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot
be excluded on this study.
 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with a past medical 
history of hypertension, status post cholecystectomy who 
presented to the emergency department for evaluation of right 
upper quadrant abdominal pain. Her liver enzymes and bilirubin 
were elevated in a cholestatic pattern. RUQ ultrasound with 
dilated bile duct. ERCP was consulted, who performed an ERCP 
with sphincterotomy. No stones were seen, but there was sludge. 
The patient was monitored overnight, and her diet was advanced 
as tolerated. 

# Cholestasis
# Elevated LFTs, Hyperbilirubinemia
Her liver enzymes and bilirubin were elevated in a cholestatic 
pattern. RUQ ultrasound with dilated bile duct. ERCP was 
consulted, who performed an ERCP with sphincterotomy on ___. 
No stones were seen, but there was sludge. The patient was 
monitored overnight, and her diet was advanced as tolerated. 

# HTN: 
Her home losartan was held inpatient as patient was 
normotensive. It was restarted on discharge. 

# GERD: 
Patient was continued on PPI as inpatient. 

TRANSITIONAL ISSUES
===================
- Please check LFTs one week after discharge to ensure that they 
are continuing to downtrend. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Esomeprazole 40 mg Other DAILY 

 
Discharge Medications:
1.  Esomeprazole 40 mg Other DAILY  
2.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
- Cholestasis

Secondary
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  

Dear Ms. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because you were having abdominal 
pain, and your liver enzymes were elevated.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- While you were in the hospital, you had a procedure called an 
ERCP with sphincterotomy. That means that the GI team made a 
small cut in your bile duct so that the bile would flow more 
easily into the GI tract. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and please call your PCP 
to schedule ___ follow-up appointment to have your labs checked. 
- Please adhere to a low-fat diet
- It is important that you try to exercise when you can. 

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___